US06340384B1
(A) Copper Ammonia/Dodecyldimethylamine Oxide Treating Solution
480 g of ammoniated copper carbonate concentrate prepared as in Example 1 (i.e. solution (I)) was mixed with 160 grams of Barlox® 12, which is a 30% (w/w) aqueous solution of dodccyldimethylamine oxide available from Lonza, Inc., of Fair Lawn, N.J., to yield a concentrated solution. This solution was diluted with 7360 grams of deionized water and the resulting solution containing 0.6% (w/w) copper oxide and 0.6% dodecyldimethylamine oxdie was used to treat wood in a pressure cylinder.

reactant | copper oxide | [Cu]=O
reactant | dodecyldimethylamine | C(CCCCCCCCCCC)N(C)C | C14H31N
solvent | water | 7360 grams | O | H2O
product | Copper Ammonia Dodecyldimethylamine Oxide | N.[Cu].C(CCCCCCCCCCC)[N+](C)(C)[O-] | InChI=1S/C14H31NO.Cu.H3N/c1-4-5-6-7-8-9-10-11-12-13-14-15(2,3)16;;/h4-14H2,1-3H3;;1H3
